US08563575B2
The mixture of 3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.0 g) in phosphorus oxychloride (10 g) was stirred at 100° C. under a dry atmosphere (CaCl2 tube) for 5 h. The mixture was neutralized with sat.NaHCO3 at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 2-chloro-3-methyl-3H-imidazo[4,5-b]pyridine (230 mg) as a white solid.

reactant | 3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.0 g | CN1C(NC=2C1=NC=CC2)=O | C7H7N3O
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | phosphorus oxychloride | 10 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-methyl-3H-imidazo[4,5-b]pyridine | 230 mg | ClC1=NC=2C(=NC=CC2)N1C | C7H6ClN3
